US07825244B2
c. 6,7-Dimethoxy-4-piperidin-4-yl-quinazoline
A mixture of crude 4-(6,7-dimethoxy-quinazolin-4-yl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester (33 g), as prepared in the previous step, MeOH (100 mL), and KOH pellets (26 g, 400 mmol assuming 87% w/w water) was stirred at reflux (100° C. oil bath) for 1 h, at which point the translucent reddish-amber solution was allowed to cool to rt and diluted with water (100 mL) and 6 M HCl (100 mL). The solution was stirred at 100° C. for 10 min (Caution: Initial vigorous bubbling), allowed to cool to rt, diluted with 2.5 M NaOH (90 mL) and extracted with DCM (1×150 mL; 1×50 mL). The organic layers were combined, dried (Na2SO4), and concentrated under reduced pressure to afford the title compound as a beige powder (13.95g, 76% from 4-chloro-6,7-dimethoxyquinazoline). 1H-NMR (300 MHz, DMSO-d6) δ 8.98 (s, 1H), 7.48 (s, 1H), 7.32 (s, 1H), 3.98 (s, 3H), 3.96 (s, 3H)m 3.69 (m, 1H), 3.05 (m, 2H), 2.84-2.71 (m, 2H), 1.88-1.65 (m, 4H). LC/MS (ESI): calcd mass 273.2, found 274.2 (MH)+.

reactant | 4-(6,7-dimethoxy-quinazolin-4-yl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | 33 g | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=NC=NC2=CC(=C(C=C12)OC)OC | C22H29N3O6
reactant | MeOH | 100 mL | CO | CH4O
reactant | KOH | [OH-].[K+]
solvent | water | 100 mL | O | H2O
solvent | HCl | 6 M, 100 mL | Cl | ClH
product | 6,7-Dimethoxy-4-piperidin-4-yl-quinazoline | 13.95g, 76% | COC=1C=C2C(=NC=NC2=CC1OC)C1CCNCC1 | C15H19N3O2
